US07906677B2
1.02 g (7.2 mmol) of 2-chloro-6-methylaniline, 1.23 g (7.2 mmol) 4-bromotoluene, 1.15 g (12 mmol) sodium tert-butoxide, 160 mg (0.7 mmol) tri-tert-butyhphosphine and 130 mg (0.23 mmol) bis-dibenzylideneacetone-palladium(0) are reacted in 50 ml toluene under nitrogen at 90° C. for 20 minutes and at 60° C. over night. Aqueous workup (3N HCl, with hyflo, washing the organic phase with water) and flash-chromatography on silica using heptan/toluene (4:1) as the eluent affords 1.49 g of N-(2′-chloro-6′-methylphenyl)-4-methylaniline.

reactant | 2-chloro-6-methylaniline | 7.2 mmol, 1.02 g | ClC1=C(N)C(=CC=C1)C | C7H8ClN
reactant | 4-bromotoluene | 7.2 mmol, 1.23 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | sodium tert-butoxide | 12 mmol, 1.15 g | CC(C)([O-])C.[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2′-chloro-6′-methylphenyl)-4-methylaniline | 1.49 g | ClC1=C(C(=CC=C1)C)NC1=CC=C(C=C1)C | C14H14ClN
